US08476432B2
E-(7-{2-(N-methyl-N-methanesulfonylamino)-4-(4-fluorophenyl)-6-isopropyl-pyrimidin-5-yl}-[(3R,5S)-3,5-dihydroxy-hept-6-enoic acid])-N-methoxy-N-methyl-amide (38.3 g), ethyl alcohol (300.0 mL), and a solution of sodium hydroxide (5.1 g) in water (60.0 mL) were added to a reactor. The reaction mixture was stirred for 16 hours while maintaining the temperature of 20˜25° C., and then concentrated under reduced pressure. Ethyl acetate (240.0 mL) and water (360.0 mL) were added to the resulting residue under stirring. Ethyl acetate (240.0 mL) was added to the separated water layer, which was then adjusted to pH 3.0˜4.0 using 1N hydrochloric acid solution. The separated organic layer was concentrated under reduced pressure. Tetrahydrofuran (900.0 mL) and diisopropylamine (12.0 mL) were added to the resulting residue. The reaction mixture was stirred at 20˜25° C. for over 12 hours and then filtered under reduced pressure. The resulting white solid was dried under vacuum to obtain E-7-[2-(N-methyl-N-methanesulfonylamino)-4-(4-fluorophenyl)-6-isopropyl-pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoic acid diisopropylamine salt (38.0 g, yield 90%, HPLC purity 99.7%).

reactant | E-(7-{2-(N-methyl-N-methanesulfonylamino)-4-(4-fluorophenyl)-6-isopropyl-pyrimidin-5-yl}-[(3R,5S)-3,5-dihydroxy-hept-6-enoic acid]) N-methoxy-N-methyl-amide | 38.3 g | CN(S(=O)(=O)C)C1=NC(=C(C(=N1)C1=CC=C(C=C1)F)/C=C/[C@H](C[C@H](CC(=O)O)O)O)C(C)C.CO[N-]C
reactant | ethyl alcohol | 300.0 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 5.1 g | [OH-].[Na+]
solvent | water | 60.0 mL | O | H2O
product | E-7-[2-(N-methyl-N-methanesulfonylamino)-4-(4-fluorophenyl)-6-isopropyl-pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoic acid diisopropylamine salt | 38.0 g, yield 90% | C(C)(C)NC(C)C.CN(S(=O)(=O)C)C1=NC(=C(C(=N1)C1=CC=C(C=C1)F)/C=C/[C@H](C[C@H](CC(=O)O)O)O)C(C)C | InChI=1S/C22H28FN3O6S.C6H15N/c1-13(2)20-18(10-9-16(27)11-17(28)12-19(29)30)21(14-5-7-15(23)8-6-14)25-22(24-20)26(3)33(4,31)32;1-5(2)7-6(3)4/h5-10,13,16-17,27-28H,11-12H2,1-4H3,(H,29,30);5-7H,1-4H3/b10-9+;/t16-,17-;/m1./s1
